ICE2976 passive two-wire adapter - nominal device models, not hardware verification
VU u 0 12
RP1 u x1 4700
RP2 u x2 4700
RSW1 x1 0 1000000000000.0
RSW2 x2 0 1000000000000.0
RS1 x1 k1 1000
RS2 x2 k2 1000000000000.0
RSHORT k1 k2 1000000000000.0
D1 k1 vp DS
D2 k2 vp DS
DR vp nr RED
DW vp nw WHITE
RR nr k1 47000
RW nw k2 47000
D3 nr vp DS
D4 nw vp DS
.model DS D(Is=2.52n N=1.752 Rs=0.568 Cjo=4p Tt=4n BV=75)
.model RED D(Is=1e-20 N=2 Rs=10)
.model WHITE D(Is=1e-25 N=2 Rs=10)
.control
set wr_singlescale
set wr_vecnames
op
wrdata case_6.dat v(x1) v(x2) v(k1) v(k2) v(vp) v(nr) v(nw) @dr[id] @dw[id]
quit
.endc
.end
